US07863305B2
In an alternate procedure, 3-(1H-Indol-3-yl)-N-methyl-3-phenyl-propionamide (0.400 g) was reduced by refluxing overnight in THF (20 ml) with excess borane-dimethylsulfide to yield [3-(1H-Indol-3-yl)-3-phenyl-propyl]-methyl-amine, which was converted to an oxalate salt (mp 123.7-134.1° C.).

reactant | 3-(1H-Indol-3-yl)-N-methyl-3-phenyl-propionamide | 0.400 g | N1C=C(C2=CC=CC=C12)C(CC(=O)NC)C1=CC=CC=C1 | C18H18N2O
reactant | borane dimethylsulfide | B.CSC
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | [3-(1H-Indol-3-yl)-3-phenyl-propyl]-methyl-amine | N1C=C(C2=CC=CC=C12)C(CCNC)C1=CC=CC=C1 | C18H20N2
